US08492395B2
To a stirred mixture of 2-amino-5-hydroxybenzoic acid (5.1 g, 33 mmol) and imidazole (5.0 g, 73 mmol) in acetonitrile (60 mL), was added acetyl chloride (5.2 mL, 73 mmol) at room temperature. The mixture was stirred at room temperature overnight. To the mixture, was added 3-amino-piperidine-2,6-dione hydrogen chloride (6.0 g, 37 mmol), imidazole (5.0 g, 73 mmol) and triphenyl phosphite (10.5 mL, 40 mmol) and heated to reflux for 22 hours. To the mixture, was added water (100 mL) and conc HCl until pH ˜1. The solvent was removed in vacuo. To the residue, was added water (50 mL). The aqueous layer was extracted with ethyl acetate (50 mL). To the aqueous layer, was added ethyl acetate (50 mL), and the mixture was stirred at room temperature to give a suspension. The suspension was filtered to give a solid, which was stirred in methanol (50 mL) overnight. The suspension was filtered and washed with methanol (2×30 mL) and water to give 3-(6-hydroxy-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as an off-white solid (2.97 g, 31% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 5/95 grad 95/5 in 5 min CH3CN/0.1% H3PO4, 4.50 min (96.8%); mp: 315-317° C.; 1H NMR (DMSO-d6) δ 2.13-2.18 (m, 1H, CH—H), 2.58 (s, 3H, CH3), 2.62-2.71 (m, 2H, 2CH—H), 2.78-2.91 (m, 1H, CH—H), 5.22 (dd, J=6, 11 Hz, 1H, NCH), 7.24-7.32 (m, 2H, Ar), 7.49 (d, J=9 Hz, 1H, Ar), 10.07 (s, 1H, OH), 11.00 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.97, 23.10, 30.59, 56.36, 108.59, 121.24, 124.13, 128.19, 140.14, 151.39, 155.89, 160.24, 169.58, 172.63; LCMS: MH=288; Anal Calcd for C14H13N3O4+1H2O: C, 55.08; H, 4.95; N, 13.76. Found: C, 54.82; H, 4.74; N, 13.54.

reactant | 2-amino-5-hydroxybenzoic acid | 33 mmol, 5.1 g | NC1=C(C(=O)O)C=C(C=C1)O | C7H7NO3
reactant | imidazole | 73 mmol, 5.0 g | N1C=NC=C1 | C3H4N2
reactant | acetyl chloride | 73 mmol, 5.2 mL | C(C)(=O)Cl | C2H3ClO
reactant | 3-amino-piperidine-2,6-dione hydrogen chloride | 37 mmol, 6.0 g | Cl.NC1C(NC(CC1)=O)=O
reactant | imidazole | 73 mmol, 5.0 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphite | 40 mmol, 10.5 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | HCl | Cl | ClH
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | 3-(6-hydroxy-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 2.97 g, 31% yield | OC=1C=C2C(N(C(=NC2=CC1)C)C1C(NC(CC1)=O)=O)=O | C14H13N3O4
